US07632829B2
1.50 g (9.28 mmol) of 6-Hydroxymethyl-pyridin-3-ol hydrochlorid was hydrogenated under the conditions described in intermediate 63B. The crude product was dissolved in 5 ml DMF, 5.60 ml (32.00 mmol) of Hunig's base and 3.56 g (16.00 mmol) of BOC2O were added and the yellow solution was stirred 18 h at RT. Evaporation, extraction (AcOEt/water/brine) and chromatography (silica gel, AcOEt/MeOH) gave 0.35 g (15%) (rac)-5-hydroxy-2-methyl-piperidine-1-carboxylic acid tert-butyl ester; MS: 216.4 (MH+)

reactant | 6-Hydroxymethyl-pyridin-3-ol hydrochlorid | 9.28 mmol, 1.50 g | Cl.OCC1=CC=C(C=N1)O
reactant | Hunig's base | 32.00 mmol, 5.60 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | BOC2O | 16.00 mmol, 3.56 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (rac)-5-hydroxy-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.35 g, 15% | C(C)(C)(C)OC(=O)N1C(CCC(C1)O)C | C11H21NO3
